US05034395
18.6 Grams of 5-acetyl-2,2-dimethyl-1,3-dioxane-4,6-dione and 50 ml tetrahydrofuran solution containing 22.2 g of 4-(1-ethoxyethoxy)cinnamyl alcohol were refluxed for 6 hours. After the reaction was completed, the solvent was removed by evaporation, and the residue thus obtained was purified by means of a silica gel column chromatography (eluent: ethyl acetate:n-hexane=1:4) to yield 5.8 g of 4-[(1-ethoxy)ethoxy]cinnamyl acetoacetate as in the form of an oily substance.

reactant | 5-acetyl-2,2-dimethyl-1,3-dioxane-4,6-dione | C(C)(=O)C1C(OC(OC1=O)(C)C)=O | C8H10O5
reactant | 4-(1-ethoxyethoxy)cinnamyl alcohol | 22.2 g | C(C)OC(C)OC1=CC=C(C=CCO)C=C1 | C13H18O3
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-[(1-ethoxy)ethoxy]cinnamyl acetoacetate | 5.8 g | C(CC(=O)C)(=O)OCC=CC1=CC=C(C=C1)OCCOCC | C17H22O5
